US05047568
About 12.7 grams of 3-(9-anthracenyl)-propionic alcohol is mixed with about 19 grams of triphenyl phosphine in about 30 ml of tetrahydrofuran and about 100 ml of diethylether. To this mixture is added about 18 grams of carbon tetrabromide (CBr4). The resultant mixture is then stirred for about 60 hours. The 9-(3-bromopropyl) anthracene is then obtained by evaporation of the solvent, followed by elution on silica gel.

reactant | triphenyl phosphine | about 19 grams | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | about 18 grams | C(Br)(Br)(Br)Br | CBr4
reactant | tetrahydrofuran | about 30 ml | O1CCCC1 | C4H8O
solvent | diethylether | about 100 ml | C(C)OCC | C4H10O
product | 9-(3-bromopropyl) anthracene | BrCCCC=1C2=CC=CC=C2C=C2C=CC=CC12 | C17H15Br
